US05981492
71f. Ethyl (S)-3-amino-3-phenylpropionate hydrochloride
10.29 g of ethyl (S)-3-benzyloxycarbonylamino-3-phenylpropionate (31.44 mmol) are dissolved in 125 ml of ethanol and hydrogenated catalytically over Pd/active charcoal at a Ph of 4 using an automated burette and while adding 2N ethanolic HCl. The catalyst is filtered off with suction through kieselguhr and the filtrate is concentrated. The residue is triturated with diethyl ether, filtered off with suction, washed with diethyl ether and dried over phosphorus pentoxide.

reactant | ethyl (S)-3-benzyloxycarbonylamino-3-phenylpropionate | 31.44 mmol, 10.29 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(=O)OCC)C1=CC=CC=C1 | C19H21NO4
reactant | HCl | 2N | Cl | ClH
solvent | ethanol | 125 ml | C(C)O | C2H6O
solvent | Pd | [Pd] | Pd
product | Ethyl (S)-3-amino-3-phenylpropionate hydrochloride | Cl.N[C@@H](CC(=O)OCC)C1=CC=CC=C1 | InChI=1S/C11H15NO2.ClH/c1-2-14-11(13)8-10(12)9-6-4-3-5-7-9;/h3-7,10H,2,8,12H2,1H3;1H/t10-;/m0./s1
